US08614206B2
MCPBA (335 mg, 1.49 mmol, 77 mass %) was added to a stirred solution of tert-butyl N-[(4R)-6-methylene-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-yl]carbamate (350 mg, 1.00 mmol) in DCM (12 mL). The mixture was stirred at room temperature overnight. The reaction was quenched with sat NaHCO3 and extracted with DCM 3×. The combined organic layers were concentrated and the residue was purified via silica gel column chromatography (0-100% EA/heptane) to give tert-butyl N-[(5S)-8-(2-methyl-4-nitro-pyrazol-3-yl)-2-oxa-8-azaspiro[2.6]nonan-5-yl]carbamate (316 mg, 86%).

reactant | MCPBA | 1.49 mmol, 335 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | tert-butyl N-[(4R)-6-methylene-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-yl]carbamate | 1.00 mmol, 350 mg | C=C1C[C@H](CCN(C1)C=1N(N=CC1[N+](=O)[O-])C)NC(OC(C)(C)C)=O | C16H25N5O4
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-[(5S)-8-(2-methyl-4-nitro-pyrazol-3-yl)-2-oxa-8-azaspiro[2.6]nonan-5-yl]carbamate | 316 mg, 86% | CN1N=CC(=C1N1CC[C@@H](CC2(OC2)C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C16H25N5O5
